US07060827B2
In a manner similar to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, N4-benzyloxy-2-chloro-5-ethoxycarbonyl-4-pyrimidineamine and 1,4-benzodioxan-6-amine were reacted to yield N4-benzyloxy-5-ethoxycarbonyl-N2-(3,4-ethylenedioxyphenyl)-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 8.55 (s, 1 H), 7.49–7.44 (m, 3H), 7.39–7.34 (m, 4H), 7.30–7.22 (m, 1H), 6.67 (d, 1H, J=8.4 Hz), 4.98 (s, 2H), 4.23–4.17 (m, 6H), 1.26 (t, 3H, J=7.2 Hz); LCMS: ret. time: 26.14 min.; purity: 95%; MS (m/e): 423 (MH+).

reactant | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O | C18H15FN4O3
reactant | N4-benzyloxy-2-chloro-5-ethoxycarbonyl-4-pyrimidineamine | C(C1=CC=CC=C1)ONC1=NC(=NC=C1C(=O)OCC)Cl | C14H14ClN3O3
reactant | 1,4-benzodioxan-6-amine | O1CCOC2=C1C=CC(=C2)N | C8H9NO2
product | N4-benzyloxy-5-ethoxycarbonyl-N2-(3,4-ethylenedioxyphenyl)-2,4-pyrimidinediamine | C(C1=CC=CC=C1)ONC1=NC(=NC=C1C(=O)OCC)NC1=CC2=C(C=C1)OCCO2 | C22H22N4O5
